US08668910B2
1d.5 Preparation of 3-[2-(2-{2-[2-(2,2,2-trifluoro-acetylamino)-ethoxy]-ethoxy}-ethoxy)-ethoxy]-propionic acid methyl ester
Under an inert atmosphere of argon, in a round bottom flask, with magnetic stirring, 230 mg of 3-(2-{2-[2-(2-amino-ethoxy)-ethoxy]-ethoxy}-ethoxy)-propionic acid (CA(PEG)4, Pierce) 2 ml of DCM and 1 ml of methanol are successively introduced. At RT, 1 ml of trimethylsilyldiazomethane (2M solution in hexane) is slowly added to the reaction medium. After 2 hrs at RT, the excess of triméthylsilyldiazomethane is neutralized by addition of acetic acid. The crude reaction medium is then evaporated to dryness under RP. The residue obtained is diluted with 2 ml of DCM, cooled to 0° C. with a water-ice bath, then 363 μl of TEA and 300 μl of TFAA are successively added. After 2 hrs 30 min at RT and 19 hrs at −20° C., 363 μl of TEA and 300 μl of TFAA are successively added. After 4 hrs 30 min at RT and the crude medium is stocked at −20° C. and then purified by flash-chromatography on 30 g of C18-grafted silica gel (gradient of elution water:acetonitrile from 95:5 to 5:95 by volume). After concentration of fractions containing the desired product under RP, 123 mg of 3-[2-(2-{2-[2-(2,2,2-trifluoro-acetylamino)-ethoxy]-ethoxy}-ethoxy)-ethoxy]-propionic acid methyl ester are obtained in the form of a pale-yellow oil. Mass spectra (A): RT=0.90 min; [M+H]+: m/z 376; [M−H]−: m/z 374.

reactant | 3-(2-{2-[2-(2-amino-ethoxy)-ethoxy]-ethoxy}-ethoxy)-propionic acid | 2 ml, 230 mg | NCCOCCOCCOCCOCCC(=O)O | C11H23NO6
reactant | methanol | 1 ml | CO | CH4O
reactant | trimethylsilyldiazomethane | 2M, 1 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | TFAA | 300 μl | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | TFAA | 300 μl | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[2-(2-{2-[2-(2,2,2-trifluoro-acetylamino)-ethoxy]-ethoxy}-ethoxy)-ethoxy]-propionic acid methyl ester | COC(CCOCCOCCOCCOCCNC(C(F)(F)F)=O)=O | C14H24F3NO7
